US07153855B2
To a solution of 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (4.04 g, 13.0 mmol) in N,N-dimethylformamide (100 mL) was added cyclopentyl guanidine hydrochloride (6.36 g, 39 mmol), followed by solid potassium carbonate (5.39 g, 39 mmol). The resultant solution was heated to reflux for 6 hours. Upon cooling to room temperature, ether was added followed by water. The organics were washed with brine, and the aqueous extracted with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (3:10 ethyl acetate:hexanes) to give 4-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (2.39 g, 43%) as a yellow foam. 1H NMR (CDCl3) δ 8.47 (d, 1H), 7.99 (d, 1H), 7.48 (s, 1H), 7.39 (d, 1H), 7.33–7.24 (m, 3H), 7.05 (d, 1H), 6.33 (d, 1H), 5.38 (broad s, 1H), 4.36 (m, 1H), 2.40 (s, 3H), 2.10 (m, 2H), 1.78 (m, 2H), 1.67 (m, 2H), 1.58 (m, 2H); MS m/z 404 (M+1).

reactant | 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 13.0 mmol, 4.04 g | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C2=CC(=CC=C2)C | C17H11ClN2O
reactant | cyclopentyl guanidine hydrochloride | 39 mmol, 6.36 g | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 39 mmol, 5.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 2.39 g, 43% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)C | C23H22ClN5
